US07049438B2
5-(1-tert-butoxycarbonylpiperidin-4-yloxy)-3,4-dihydroquinazolin-4-one (0.31 g) was reacted with triphenylphosphine and carbon tetrachloride to give 5-(1-tert-butoxycarbonylpiperidin-4-yloxy)-4-chloroquinazoline (0.156 g); NM Spectrum: (CDCl3) 1.5 (s, 9H), 1.9–2.1 (m, 4H), 3.5–3.8 (m, 4H), 4.8 (m, 1H), 7.05 (d, 1H), 7.65 (d, 1H), 7.82 (m, 1H), 8.95 (s, 1H); Mass Spectrum: M+H+ 364 and 366; and

reactant | 5-(1-tert-butoxycarbonylpiperidin-4-yloxy)-3,4-dihydroquinazolin-4-one | 0.31 g | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=C2C(NC=NC2=CC=C1)=O | C18H23N3O4
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
product | 5-(1-tert-butoxycarbonylpiperidin-4-yloxy)-4-chloroquinazoline | 0.156 g | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=C2C(=NC=NC2=CC=C1)Cl | C18H22ClN3O3
